US07345056B2
To 12,5-bis(4-chloro-benzenesulfonyl)-3,4,5,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene (15 mg, 0.029 mmol) in THF (200 μL) was added H2O (100 μM) followed by 1M NaOH solution in H2O (100 μL). The mixture was heated at 75° C. for 3 hr. The mixture was partitioned between EtOAc/H2O. The organic layer was washed with brine, dried and concentrated. The residue was purified by prep TLC to 12-(4-Chloro-benzenesulfonyl)-3,4,5,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene (5.3 mg, 0.016 mmol, 54% yield). MS (ES) m/e 339.0 (M+H)

reactant | 12,5-bis(4-chloro-benzenesulfonyl)-3,4,5,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene | 0.029 mmol, 15 mg | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C=3N=NN(C3CC1CCC2)S(=O)(=O)C2=CC=C(C=C2)Cl | C20H18Cl2N4O4S2
reactant | NaOH | 1M | [OH-].[Na+]
solvent | THF | 200 μL | C1CCOC1 | C4H8O
solvent | H2O | 100 μL | O | H2O
solvent | H2O | 100 μM | O | H2O
product | 12-(4-Chloro-benzenesulfonyl)-3,4,5,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene | 0.016 mmol, 5.3 mg, 54% yield | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C=3N=NNC3CC1CCC2 | C14H15ClN4O2S
